US07485634B2
Preparation of (3,4-Difluorophenyl)-(1-phenyl-1,3,4,9-tetrahydrobetacarbolin-2-yl)-methanone
The title compound was prepared by the addition of 1-phenyl-2,3,4,9-tetrahydro-1H-beta-carboline (95 mg, 383 μmol), DCE (5 mL), 3,4-difluorobenzoyl chloride (88 mg, 498 μmol), and TEA (1.0 mL) to a 25 mL flask. The solution was allowed to stir at 55° C. for 16 hours. The reaction solution was concentrated, and the crude sample was chromatographed (SiO2, 100% hexane to 25% EtOAc) to yield 53 mg of title compound; 1H NMR (CDCl3) δ 8.02 (1H, br s), 7.53 (1H, d), 7.30-7.33 (6H, m), 7.15-7.23 (5H, m), 7.07 (1H, br s), 3.75 (1H, m), 3.41 (1H, m), 2.93 (1H, m), 2.84 (1H, dd); MS(ESI): 389(MH+).

reactant | 1-phenyl-2,3,4,9-tetrahydro-1H-beta-carboline | 383 μmol, 95 mg | C1(=CC=CC=C1)C1NCCC=2C3=CC=CC=C3NC12 | C17H16N2
reactant | 3,4-difluorobenzoyl chloride | 498 μmol, 88 mg | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | (3,4-Difluorophenyl)-(1-phenyl-1,3,4,9-tetrahydrobetacarbolin-2-yl)-methanone | 53 mg | FC=1C=C(C=CC1F)C(=O)N1C(C=2NC3=CC=CC=C3C2CC1)C1=CC=CC=C1 | C24H18F2N2O
